US06603008B1
5-[5-(4-Bromophenyl)-3-(trifluoromethyl)-1H-pyrazol-1-yl]-2-pyridinesulfonamide (Step 1).
A mixture of 1-(4-bromophenyl)-4,4,4-trifluoro-1,3-butanedione (prepared according to the method of J.Med.Chem., 1997, 40, 1347. 1.09 g, 3.71 mmol) and 5-hydrazino-2-pyridinesulfonamide hydrochloride (1.00 g, 4.45 mmol) in ethanol (50 ml) was refluxed for 18 hr. After evaporation, the obtained residue was chromatographed on a column of silica gel (200 g) eluting with ethyl acetate/hexane (1:2) to afford 1.44 g (87%) of the title compound as a white solid.

reactant | 1-(4-bromophenyl)-4,4,4-trifluoro-1,3-butanedione | BrC1=CC=C(C=C1)C(CC(C(F)(F)F)=O)=O | C10H6BrF3O2
reactant | 5-hydrazino-2-pyridinesulfonamide hydrochloride | 4.45 mmol, 1.00 g | Cl.N(N)C=1C=CC(=NC1)S(=O)(=O)N
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 5-[5-(4-Bromophenyl)-3-(trifluoromethyl)-1H-pyrazol-1-yl]-2-pyridinesulfonamide | 1.44 g, 87% | BrC1=CC=C(C=C1)C1=CC(=NN1C=1C=CC(=NC1)S(=O)(=O)N)C(F)(F)F | C15H10BrF3N4O2S
